US08748443B2
Part A. Preparation of 1-(3-tert-butyl-5-iodo-4-methoxyphenyl)-3-(2-chloroethyl)urea
3-tert-Butyl-5-iodo-4-methoxyaniline (305 mg, 1 mmol) and ethyl 2-chloroethyl isocyanate (0.085 mL, 1.000 mmol) were reacted in the same manner as Example 15 Part A to give the title compound which was used without purification.

reactant | 3-tert-Butyl-5-iodo-4-methoxyaniline | 1 mmol, 305 mg | C(C)(C)(C)C=1C=C(N)C=C(C1OC)I | C11H16INO
reactant | ethyl 2-chloroethyl isocyanate | 1.000 mmol, 0.085 mL | C(C)C(CN=C=O)Cl | C5H8ClNO
product | 1-(3-tert-butyl-5-iodo-4-methoxyphenyl)-3-(2-chloroethyl)urea | C(C)(C)(C)C=1C=C(C=C(C1OC)I)NC(=O)NCCCl | C14H20ClIN2O2
